**********
IBIS3 - IBIS models using Intusoft SPICE 2G Compatible Topology(8):
These parts use a configuration similar to the SPICE 2G compatible 
subcircuit topology found in the IBIS2.LIB file. These models require
IsSpice3 due to the various If-Then-Else statements and In-Line 
equations used.

All output parts connect in the same way: Input, Output, VCC, VEE, Enable
All input parts connect in the same way: Input, VCC, VEE
Suffix Meanings - O = Output, I = Input, B = BEST CASE, W = WORST CASE, 
T = TYPICAL

To use these models simply call the part as usual and change the 
default library call from 

"*INCLUDE IBIS1.LIB" to "*INCLUDE IBIS3.LIB"

Other Libraries
IBIS1: IBIS level 1 subcircuit, requires IsSpice3
IBIS1A: IBIS level 1 subcircuit, requires IsSpice3
IBIS2: IBIS level 2 subcircuit, SPICE 2G.6 Compatible
*
Component: Any PCI Shared Component
PCIOB Buffer - emulates signals: A0-A31, DRVPCI
PCIOW Buffer - emulates signals: A0-A31, DRVPCI
PCIIB Buffer  - emulates signals: A0-A31, DRVPCI
PCIIW Buffer  - emulates signals: A0-A31, DRVPCI
Component: PCMC
PCMC1OB Buffer   - emulates signals: A0-A31, DRVPCI
PCMC1IB Buffer   - emulates signals: A0-A31, DRVPCI
PCMC1OW Buffer   - emulates signals: A0-A31, DRVPCI
PCMC1IW Buffer   - emulates signals: A0-A31, DRVPCI
**********
.SUBCKT PCIOW 10    14     6   9   8
*Connections  Input Output VCC VEE Enable
* Input/Enable Control
X16 8 10 16 AND2X
X17 10 8 1 NAND2
*
X12 1 4 9 2 DRVR
X13 16 4 9 5 DRVR
R6 4 7 33K
R7 7 9 33K
* Pull-up/pull-down structure Min
M1 7 5 9 9 PCIOUTLN
M2 7 2 4 4 PCIOUTHN
.MODEL PCIOUTLN NMOS (LEVEL=1 VTO=2.2 KP=36M GAMMA=1.48
+ LAMBDA=50.49M RD=1.345 RS=2.95 IS=100F CGDO=12N)
.MODEL PCIOUTHN PMOS (LEVEL=1 VTO=-2.2 KP=21.1M GAMMA=1.48
+ LAMBDA=237.49M RD=4.8 RS=13.2 IS=75F CGDO=12N)
* Diode Clamps
D1 7 4 DIODE
D2 9 7 DIODE
.MODEL DIODE D IS=13N N=1.8 RS=14
* Package Parasitics Max
ROSNB 11 13 100
ROPKG 13 14 .200
CCOMP 11 9 8.00P
LOPKG 11 13 15.00N
COPKG 14 9 2.00P
V5 7 11 
V6 6 4 
.ENDS
.SUBCKT NAND2 1 2 3
B1 3 0 V= ~(V(1) & V(2))
.ENDS
.SUBCKT AND2X 1 2 3
B1 3 0 V= (V(1) & ~V(2))
.ENDS
.SUBCKT DRVR 1  2  3   4
*            IN VCC VEE OUT
RC 4 3 1MEG
CC 4 3 1P
B1 0 4 I= V(1) > 1.2 ? V(2,4)/320 : V(3,4)/320
.ENDS
**********
.SUBCKT PCIIW 14    6   9
*Connections  Input VCC VEE
D1 7 4 DIODE
D2 9 7 DIODE
.MODEL DIODE D IS=13N N=1.8 RS=14
* Package Parasitics Max
ROSNB 11 13 100
ROPKG 13 14 .200
CCOMP 11 9 8.00P
LOPKG 11 13 15.00N
COPKG 14 9 2.00P
V5 7 11 
V6 6 4  ; For measuring I(VCC)
.ENDS
**********
.SUBCKT PCIOB 10    14     6   9   8
*Connections  Input Output VCC VEE Enable
* Input/Enable Control
X16 8 10 16 AND2X
X17 10 8 1 NAND2
*
X12 1 4 9 2 DRVR
X13 16 4 9 5 DRVR
R6 4 7 33K
R7 7 9 33K
* Pull-up/pull-down structure Max
M1 7 5 9 9 PCIOUTLX
M2 7 2 4 4 PCIOUTHX
.MODEL PCIOUTLX NMOS (LEVEL=1 VTO=2.2 KP=85M GAMMA=1.48
+ LAMBDA=22.49M RD=405M RS=1.71 IS=100F CGDO=12N)
.MODEL PCIOUTHX PMOS (LEVEL=1 VTO=-2.2 KP=101.5M GAMMA=1.48
+ LAMBDA=287.49M RD=1.15 RS=8.13 IS=75F CGDO=12N)
* Diode Clamps
D1 7 4 DIODE
D2 9 7 DIODE
.MODEL DIODE D IS=13N N=1.8 RS=14
* Package Parasitics Min
ROSNB 11 13 100
ROPKG 13 14 .100
CCOMP 11 9 4.00P
LOPKG 11 13 8.00N
COPKG 14 9 1.00P
V5 7 11 
V6 6 4 
.ENDS
.SUBCKT NAND2 1 2 3
B1 3 0 V= ~(V(1) & V(2))
.ENDS
.SUBCKT AND2X 1 2 3
B1 3 0 V= (V(1) & ~V(2))
.ENDS
.SUBCKT DRVR 1  2  3   4
*            IN VCC VEE OUT
RC 4 3 1MEG
CC 4 3 1P
B1 0 4 I= V(1) > 1.2 ? V(2,4)/160 : V(3,4)/160
.ENDS
**********
.SUBCKT PCIIB 14    6   9
*Connections  Input VCC VEE
D1 7 4 DIODE
D2 9 7 DIODE
.MODEL DIODE D IS=13N N=1.8 RS=14
* Package Parasitics Min
ROSNB 11 13 100
ROPKG 13 14 .100
CCOMP 11 9 4.00P
LOPKG 11 13 8.00N
COPKG 14 9 1.00P
V5 7 11 
V6 6 4  ; For measuring I(VCC)
.ENDS
**********
.SUBCKT PCMC1OW 10    14     6   9   8
*Connections    Input Output VCC VEE Enable
* Input/Enable Control
X16 8 10 16 AND2X
X17 10 8 1 NAND2
*
X12 1 4 9 2 DRVR
X13 16 4 9 5 DRVR
R6 4 7 33K
R7 7 9 33K
* Pull-up/pull-down structure Min
M1 7 5 9 9 PCIOUTLN
M2 7 2 4 4 PCIOUTHN
.MODEL PCIOUTLN NMOS (LEVEL=1 VTO=2.2 KP=12M GAMMA=1.48
+ LAMBDA=12M RD=1.445 RS=7.74 IS=100F CGDO=12N)
.MODEL PCIOUTHN PMOS (LEVEL=1 VTO=-2.2 KP=8.6M GAMMA=1.48
+ LAMBDA=76.23M RD=7.1 RS=10.2 IS=75F CGDO=12N)
* Diode Clamps
D1 7 4 DIODEV
D2 9 7 DIODEG
.MODEL DIODEV D IS=45N N=1.98 RS=938.6M
.MODEL DIODEG D IS=.9N N=1.51 RS=1.165
* Package Parasitics Max
ROSNB 11 13 100
ROPKG 13 14 .277
CCOMP 11 9 7.64P
LOPKG 11 13 32.75N
COPKG 14 9 1.36P
V5 7 11 
V6 6 4 
.ENDS
.SUBCKT NAND2 1 2 3
B1 3 0 V= ~(V(1) & V(2))
.ENDS
.SUBCKT AND2X 1 2 3
B1 3 0 V= (V(1) & ~V(2))
.ENDS
.SUBCKT DRVR 1  2  3   4
*            IN VCC VEE OUT
RC 4 3 1MEG
CC 4 3 1P
B1 0 4 I= V(1) > 1.2 ? V(2,4)/675 : V(3,4)/556
.ENDS
**********
.SUBCKT PCMC1IW 14    6   9
*Connections    Input VCC VEE
D1 7 4 DIODEV
D2 9 7 DIODEG
.MODEL DIODEV D IS=45N N=1.98 RS=938.6M
.MODEL DIODEG D IS=.9N N=1.51 RS=1.165
* Package Parasitics Max
ROSNB 11 13 100
ROPKG 13 14 .277
CCOMP 11 9 7.64P
LOPKG 11 13 32.75N
COPKG 14 9 1.36P
V5 7 11 
V6 6 4  ; For measuring I(VCC)
.ENDS
**********
.SUBCKT PCMC1OB 10    14     6   9   8
*Connections    Input Output VCC VEE Enable
* Input/Enable Control
X16 8 10 16 AND2X
X17 10 8 1 NAND2
*
X12 1 4 9 2 DRVR
X13 16 4 9 5 DRVR
R6 4 7 33K
R7 7 9 33K
* Pull-up/pull-down structure Max
M1 7 5 9 9 PCIOUTLX
M2 7 2 4 4 PCIOUTHX
.MODEL PCIOUTLX NMOS (LEVEL=1 VTO=2.2 KP=28M GAMMA=1.48
+ LAMBDA=25.49M RD=1.4 RS=7.24 IS=100F CGDO=12N)
.MODEL PCIOUTHX PMOS (LEVEL=1 VTO=-2.2 KP=33.7M GAMMA=1.48
+ LAMBDA=233.41M RD=9.25 RS=11.13 IS=75F CGDO=12N)
* Diode Clamps
D1 7 4 DIODEV
D2 9 7 DIODEG
.MODEL DIODEV D IS=45N N=1.98 RS=938.6M
.MODEL DIODEG D IS=.9N N=1.51 RS=1.165
* Package Parasitics Min
ROSNB 11 13 100
ROPKG 13 14 .227
CCOMP 11 9 2.79P
LOPKG 11 13 26.75N
COPKG 14 9 1.21P
V5 7 11 
V6 6 4 
.ENDS
.SUBCKT NAND2 1 2 3
B1 3 0 V= ~(V(1) & V(2))
.ENDS
.SUBCKT AND2X 1 2 3
B1 3 0 V= (V(1) & ~V(2))
.ENDS
.SUBCKT DRVR 1  2  3   4
*            IN VCC VEE OUT
RC 4 3 1MEG
CC 4 3 1P
B1 0 4 I= V(1) > 1.2 ? V(2,4)/189 : V(3,4)/143
.ENDS
**********
.SUBCKT PCMC1IB 14    6   9
*Connections  Input VCC VEE
D1 7 4 DIODEV
D2 9 7 DIODEG
.MODEL DIODEV D IS=45N N=1.98 RS=938.6M
.MODEL DIODEG D IS=.9N N=1.51 RS=1.165
* Package Parasitics Min
ROSNB 11 13 100
ROPKG 13 14 .227
CCOMP 11 9 2.79P
LOPKG 11 13 26.75N
COPKG 14 9 1.21P
V5 7 11 
V6 6 4  ; For measuring I(VCC)
.ENDS
**********
.SUBCKT BLINE1 1 2 {ER0=8.85P}
*Interconnect Model for the Suface Microstrip Stub from the 
* PCI Speedway to the Load
O1 1 0 2 0 LOSSY
.MODEL LOSSY LTRA rel=1.8 len={LENGTH*.0254}M
+ r=0 g=0
+ l=523NH/m
+ c=76PF/m 
* z0 = {(523N/76P)^.5}Ohms
* td = {(523N*76P)^.5}s
* Total Delay = {(523N*76P)^.5 * (LENGTH * .0254)}s
.ENDS
***********
.SUBCKT BLINE 1 2 {ER0=8.85P}
*Interconnect Model for the Buried Microstrip PCI Speedway line
O1 1 0 2 0 LOSSY
.MODEL LOSSY LTRA rel=1.8 len={LENGTH*.0254}M
+ r=0 g=0
+ l=723NH/m
+ c=76PF/m 
* z0 = {(723N/76P)^.5}Ohms 
* td = {(723N*76P)^.5}s
* Total Delay = {(723N*76P)^.5 * (LENGTH * .0254)}s
.ENDS
***********