*SPICE model for MSA0200 
*start bond wires 
.SUBCKT MSA0200 70      20      40
LLB     20      35      .5NH
LLE     40      55      .2NH
*end bond wires
* CALL DIE MODEL
XDIE    70      35      55      MSA02
.ENDS
* start die model
.SUBCKT MSA02   DIEOUT  DIEIN   DIEGND
RF      DIEIN   DIEOUT  330   
RB      DIEIN   DIEGND  156   
RBIAS   Q1E     DIEGND  167   
RE      Q2E     DIEGND  5     
CF      DIEIN   DIEOUT  0.12PF
CP1     Q1E     DIEOUT  0.033PF
CP3     DIEGND  DIEOUT  0.103PF
XA02Q1  DIEOUT  DIEIN   Q1E     A02Q1
XA02Q2  DIEOUT  Q1E     Q2E     A02Q2
.ENDS
* Q1 distributed base model
.SUBCKT A02Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     5.0   
RB2     11      12     13.2  
RB3     12      B1     9.9   
RE      E1      Q1E    0.78  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    125
DCD1    Q1B     C1     DMOD    348
DCD2    11      C1     DMOD    390
DCD3    12      C1     DMOD    114
.ENDS
* Q2 distributed base model
.SUBCKT A02Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     2.5   
RB2     21      22     6.6   
RB3     22      B2     5.0   
RE      E2      Q2E    0.39  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    250
DCD1    Q2B     C2     DMOD    564
DCD2    21      C2     DMOD    780
DCD3    22      C2     DMOD    228
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
*end die model